US07329662B2
2-Pyridin-3-yl-4-trifluoromethyl-imidazo[1,5-a]pyrimidine-8-carbonitrile
Reaction of 1-pyridin-3-yl-4,4,4-trifluoro-butane-1,3-dione (217 mg, 1.0 mmol), prepared from commercially available 3-acetylpyridine according to general procedure A, and 4-amino-5-cyano-1H-imidazole (108 mg, 1.0 mmol) according to general procedure B yielded the title compound as a yellow solid (37 mg, 13%). MS (ISP) 290.1 [(M+H)+]; mp 222° C.

reactant | 1-pyridin-3-yl-4,4,4-trifluoro-butane-1,3-dione | 1.0 mmol, 217 mg | N1=CC(=CC=C1)C(CC(C(F)(F)F)=O)=O | C9H6F3NO2
reactant | 3-acetylpyridine | C(C)(=O)C=1C=NC=CC1 | C7H7NO
reactant | 4-amino-5-cyano-1H-imidazole | 1.0 mmol, 108 mg | NC=1N=CNC1C#N | C4H4N4
product | 2-Pyridin-3-yl-4-trifluoromethyl-imidazo[1,5-a]pyrimidine-8-carbonitrile | 37 mg, 13% | N1=CC(=CC=C1)C1=NC=2N(C(=C1)C(F)(F)F)C=NC2C#N | C13H6F3N5
